US09145441B2
To a solution of (S)-1-[(S)-2-((S)-2-tert-butoxycarbonylamino-3-methyl-butyrylamino)-3-(tert-butyl-diphenyl-silanyloxy)-propionyl]-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester (450 mg, 0.57 mmol) in anhydrous dichloromethane (10 mL) at 0° C. and under an atmosphere of nitrogen, was added trimethylsilyl trifluoromethanesulfonate (156 μL, 0.86 mmol). The reaction mixture was stirred at 0° C. for 2 h before adding N,N-diisopropylethylamine (410 μL, 2.30 mmol) and then concentrated in vacuo to afford (S)-1-[(S)-2-((S)-2-amino-3-methyl-butyrylamino)-3-(tert-butyl-diphenyl-silanyloxy)-propionyl]-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester as a white solid.

reactant | (S)-1-[(S)-2-((S)-2-tert-butoxycarbonylamino-3-methyl-butyrylamino)-3-(tert-butyl-diphenyl-silanyloxy)-propionyl]-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester | 0.57 mmol, 450 mg | ClC(COC(=O)[C@H]1NN(CCC1)C([C@H](CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)NC([C@H](C(C)C)NC(=O)OC(C)(C)C)=O)=O)(Cl)Cl | C36H51Cl3N4O7Si
reactant | trimethylsilyl trifluoromethanesulfonate | 0.86 mmol, 156 μL | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
reactant | N,N-diisopropylethylamine | 2.30 mmol, 410 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (S)-1-[(S)-2-((S)-2-amino-3-methyl-butyrylamino)-3-(tert-butyl-diphenyl-silanyloxy)-propionyl]-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester | ClC(COC(=O)[C@H]1NN(CCC1)C([C@H](CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)NC([C@H](C(C)C)N)=O)=O)(Cl)Cl | C31H43Cl3N4O5Si
